US05284851
A1. Manufacture of 1-amino-3-methoxyaminopropane dihydrochloride (II-1)
10 g (0.037 mol) of N-(3-bromophenyl)-phthalimide, 6.2 g (0.075 mol) of methoxyamine hydrochloride and 15.0 g of sodium carbonate are suspended in 150 ml of ethanol and refluxed for 12 hours. After cooling, the salts are separated off by filtration and the solvent is removed. The oil which remains is treated with ethyl acetate, the insoluble residue is separated off and the solvent is removed. The oil which remains is taken up in 25 ml of ethanol and 1.15 g (0.023 mol) of hydrazine hydrate is added. The solution is stirred for 30 minutes at 80° C. After the addition of 3 ml of concentrated hydrochloric acid the mixture is stirred for a further 30 minutes at 80° C. 10 ml of water is then added and the whole filtered. Concentration and recrystallization from ethanol give the desired product as colorless crystals.

reactant | N-(3-bromophenyl)-phthalimide | 0.037 mol, 10 g | BrC=1C=C(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H8BrNO2
reactant | methoxyamine hydrochloride | 0.075 mol, 6.2 g | Cl.CON
reactant | sodium carbonate | 15.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrazine hydrate | 0.023 mol, 1.15 g | O.NN
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 1-amino-3-methoxyaminopropane dihydrochloride | Cl.Cl.NCCCNOC | InChI=1S/C4H12N2O.2ClH/c1-7-6-4-2-3-5;;/h6H,2-5H2,1H3;2*1H
